US05470862
A mixture of 2,4-diketo4-(4-methyloxazol-5-yl)butyric acid ethyl ester (8.50 g), hydrazine hydrate (1.88 g), and ethanol (100 ml) was refluxed for 3 hours and concentrated. The residue was chromatographed (silica gel, Hex/EtOAc 1/1) to yield 4.20 g of 3-ethoxycarbonyl-5-(4-methyloxazol-5-yl)pyrazole as tan solids, mp 131°-133° C. (methanol/isopropyl ether). NMR: 1.42 (t, 3H), 2.48 (s, 3H), 4.44 (q, 2H), 7.05 (s, 1H, 4-pyrazolyl H), 7.85 (s, 1H, 2-oxazolyl H).

reactant | 2,4-diketo4-(4-methyloxazol-5-yl)butyric acid ethyl ester | 8.50 g | C(C)OC(C(CC(C1=C(N=CO1)C)=O)=O)=O | C10H11NO5
reactant | hydrazine hydrate | 1.88 g | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-ethoxycarbonyl-5-(4-methyloxazol-5-yl)pyrazole | 4.20 g | C(C)OC(=O)C1=NNC(=C1)C1=C(N=CO1)C | C10H11N3O3
